* source OSCILLATOR
X_U1A         N14477 N14377 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N14377 N14506 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R1         0 N14506  1k TC=0,0 
R_R2         N14377 N14477  {R} TC=0,0 
C_C1         0 N14477  {C} IC=0 TC=0,0 
.PARAM  c=10n r=100
