* source PART_6
X_U1         N14483 N14510 VCC VEE N14527 uA741
R_R1         N14476 N14483  33k TC=0,0 
R_R2         N14510 N14527  5.6k TC=0,0 
R_R3         0 N14510  10k TC=0,0 
C_C1         0 N14483  1n  TC=0,0 
V_V1         N14476 0 DC 0Vdc AC 1Vac 
V_V2         VCC 0 15Vdc
V_V3         VEE 0 -15Vdc
