* source PASSIVE_FILTER
R_R1         EI 1ST_LPF  {R} TC=0,0 
R_R2         EI N14523  {R} TC=0,0 
R_R3         N14523 2ND_LPF  {R} TC=0,0 
C_C1         0 1ST_LPF  {C}  TC=0,0 
C_C2         N14523 0  {C}  TC=0,0 
C_C3         0 2ND_LPF  {C}  TC=0,0 
V_V1         EI 0 DC 0Vdc AC 1Vac 
C_C4         1ST_HPF EI  {C}  TC=0,0 
C_C5         N15064 EI  {C}  TC=0,0 
C_C6         2ND_HPF N15064  {C}  TC=0,0 
R_R4         0 1ST_HPF  {R} TC=0,0 
R_R5         0 N15064  {R} TC=0,0 
R_R6         0 2ND_HPF  {R} TC=0,0 
.PARAM  c=0.15uf r=1k
