* source PASSIVE_FILTER_2
V_V1         N14469 0 DC 0Vdc AC 1Vac 
R_R1         N14469 N14476  50 TC=0,0 
L_L1         N14476 N14480  5.5uH  
L_L2         N14480 N14484  5.5uH  
C_C1         0 N14476  1.82n  TC=0,0 
C_C2         0 N14480  3.1n  TC=0,0 
C_C3         0 N14484  1.82n  TC=0,0 
R_R2         0 N14484  50 TC=0,0 
