* source SNUBBER_CIRCUIT
V_V1         N14600 0 5V
R_R1         N14612 N14600  100 TC=0,0 
R_R2         N14708 HS  100 TC=0,0 
R_R3         N14682 N14663  1k TC=0,0 
R_R4         N14663 N14659  1k TC=0,0 
L_L1         N14612 LS  1mH  
L_L2         N14708 0  1mH  
Q_Q1         LS N14682 0 QMMBT3904TT1/ON 
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N14663 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5mS 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
Q_Q2         HS N14659 N14600 QMMBT3906/PLP 
