* source STEP_UP_COUNTER
X_U1         N14641 N14641 N14416 N14428 N14641 N14641 N14428 N14437 N14446
+  N14462 $G_DPWR $G_DGND 7490A PARAMS:
+ IO_LEVEL=0
+ MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N14416 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
V_V1         N14641 0 0.001Vdc
