* source SWITCH_CIRCUIT
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N14516 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5mS 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
R_R1         N14516 N14520  1k TC=0,0 
R_R2         N14524 N14528  1k TC=0,0 
R_R3         0 N14646  1k TC=0,0 
V_V3         N14528 0 5Vdc
X_M2         N14524 N14520 0 2N7002/FAI
X_M3         N14646 N14602 N14528 BS250/PLP
R_R4         N14602 N14516  1k TC=0,0 
