* source SWITCH_CIRCUIT_2
R_R1         N15108 N15244  {rg} TC=0,0 
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N15108 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5mS 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
V_V3         N14980 0 5Vdc
X_M2         N15388 N15244 0 2N7002/FAI
R_R2         N15384 N14980  {rd} TC=0,0 
R_R4         N15112 N15108  {rg} TC=0,0 
R_R3         N15392 N150922  {rd} TC=0,0 
X_M3         N150922 N15112 N14980 BS250/PLP
D_D1         N15384 N15388 D1N3063 
D_D2         N15392 0 D1N3063 
.PARAM  rg=10k rd=100
