* source SWITCH_CIRCUIT_3
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND IN IO_STM IO_LEVEL=0 
+ 0 0
+ +.5mS 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
R_R1         IN N14657  10k TC=0,0 
R_RLoad         0 OUT  1k TC=0,0 
Q_Q2         N14557 N14657 0 Q2N3904
Q_Q1         OUT N14557 N14529 Q2N3906
V_V1         N14529 0 12Vdc
R_R2         N14529 N14557  100k TC=0,0 
