* source SWITCHING_CIRCUIT_MOSFET_1
V_V1         N14487 0 12Vdc
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND CON IO_STM IO_LEVEL=0 
+ 0 0
+ +.5mS 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
R_R1         CON N14587  47k TC=0,0 
R_R2         N14487 N14544  10k TC=0,0 
R_R3         0 OUT  1k TC=0,0 
X_M1         N14544 N14587 0 2N7002/FAI
X_M2         OUT N14544 N14487 BS250/PLP
