* source SWITCHING_CITCUIT_MOSFET_INVERTING
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND IN IO_STM IO_LEVEL=0 
+ 0 0
+ +.5mS 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
R_R1         IN N14475  10k TC=0,0 
R_R2         7405 N14618  1k TC=0,0 
V_V1         N14618 0 5Vdc
X_M1         OUT N14475 N14618 BS250/PLP
X_M2         OUT N14475 0 2N7000/PLP
X_U1A         IN 7404 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         IN 7405 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
