* source SWITCHINT_CIRCUIT_TRAN_MOSFET
V_V1         VCC 0 5Vdc
X_U1         VCC N14553 Sw_tClose PARAMS: tClose=1m ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R1         0 N14553  100 TC=0,0 
R_R2         0 N14574  1k TC=0,0 
R_R3         VCC NPN  1meg TC=0,0 
R_R4         VCC NMOS  1k TC=0,0 
R_R5         N14603 0  560 TC=0,0 
C_C1         N14553 N14574  1u  TC=0,0 
C_C2         N14553 N14603  1u  TC=0,0 
X_M1         NMOS N14603 0 2N7002/FAI
Q_Q1         NPN N14574 0 QMMBT3904TT1/ON 
