* source TTEST
U_DSTM4         STIM(1,1)
+ $G_DPWR $G_DGND
+ N14530 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
+ 2s 0  
+ 3s 0 
R_R4         0 N14530  1k TC=0,0 
V_V1         P12V 0 12V
V_V2         0 N12V 12V
R_R6         0 N17207  1k TC=0,0 
U_DSTM6         STIM(1,1)
+ P12V $G_DGND
+ N17207 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
+ 2s 0  
+ 3s 0 
U_DSTM7         STIM(1,1)
+ P12V N12V
+ N17317 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
+ 2s 0  
+ 3s 0 
R_R7         0 N17317  1k TC=0,0 
U_DSTM8         STIM(8,11111111)
+ $G_DPWR $G_DGND
+ D7 D6 D5 D4 D3 D2 D1 D0 
+ IO_STM
+ IO_LEVEL=0
+  0s 00000000  
+ 1s 00011100  
+ 2s 00101111  
+ 3s 01001100 
R_R8         0 D0  1k TC=0,0 
R_R9         0 D1  1k TC=0,0 
R_R10         0 D2  1k TC=0,0 
R_R11         0 D3  1k TC=0,0 
R_R12         0 D4  1k TC=0,0 
R_R13         0 D5  1k TC=0,0 
R_R14         0 D6  1k TC=0,0 
R_R15         0 D7  1k TC=0,0 
