* source TIMER_555
X_U1         THRESHOLD N14733 N15010 VCC 0 NCS2202 
X_U2         N14741 THRESHOLD N15120 VCC 0 NCS2202 
X_U3         N15010 N15028 N15014 VCC CMOS_NOR_GATE 
X_U4         N15014 N15120 N15028 VCC CMOS_NOR_GATE 
X_U5         N15014 N14880 VCC CMOS_INV 
X_U6         N14880 OUT VCC CMOS_INV 
Q_Q1         DISCHARGE N14880 0 Q2N3904
R_R1         DISCHARGE VCC  30k TC=0,0 
R_R2         THRESHOLD DISCHARGE  150k TC=0,0 
R_R3         N14741 N14733  5k TC=0,0 
R_R4         0 N14741  5k TC=0,0 
R_R5         N14733 VCC  5k TC=0,0 
R_R6         N15010 VCC  1k TC=0,0 
R_R7         VCC N15120  1k TC=0,0 
C_C1         0 THRESHOLD  100pF  TC=0,0 
C_C2         0 N14733  0.1u  TC=0,0 
C_C3         N15014 0  15n  TC=0,0 
C_C4         0 N14880  15n  TC=0,0 
V_V1         VCC 0 12Vdc
C_C5         0 VCC  0.1u  TC=0,0 
