* source TIMER_555_CLOCK
Q_Q1         DISCHARGE N16780 0 Q2N3904
R_R6         N16580 VCC  1k TC=0,0 
X_U1         DISCHARGE N16576 N16580 VCC 0 NCS2202 
C_C1         0 DISCHARGE  0.002uF  TC=0,0 
R_R4         0 N16906  5k TC=0,0 
R_R1         DISCHARGE VCC  4.7k TC=0,0 
C_C2         0 N16576  0.1u  TC=0,0 
X_U4         N16676 N17006 N16792 VCC CMOS_NOR_GATE 
C_C5         0 VCC  0.1u  TC=0,0 
C_C4         0 N16780  0.01uF  TC=0,0 
R_R7         VCC N17006  1k TC=0,0 
R_R3         N16906 N16576  5k TC=0,0 
X_U6         N16780 OUT VCC CMOS_INV 
X_U3         N16580 N16792 N16676 VCC CMOS_NOR_GATE 
X_U2         N16906 N17472 N17006 VCC 0 NCS2202 
R_R5         N16576 VCC  5k TC=0,0 
V_V1         VCC 0 5.2Vdc
C_C3         N16676 0  15n  TC=0,0 
X_U5         N16676 N16780 VCC CMOS_INV 
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N17472 IO_STM IO_LEVEL=0 
+ 0 0
+ +50uS 1
+REPEAT FOREVER
+ +50us 0
+  +50uS 1
+ ENDREPEAT
