* source TRAN_MULTIVIBRATOR
R_R1         N14467 N14476  100 TC=0,0 
R_R2         N14460 N14476  {R} TC=0,0 
R_R3         N14451 N14476  {R} TC=0,0 
R_R4         N14565 N14476  100 TC=0,0 
C_C1         N14460 N14467  {C}  TC=0,0 
C_C2         N14565 N14451  {C} IC=2.5 TC=0,0 
Q_Q1         N14565 N14460 0 Q2N3904
Q_Q2         N14467 N14451 0 Q2N3904
V_V1         N14476 0 5Vdc
.PARAM  c=1u r=10k
