* source ASTABLE_MV
X_U3E         N15518 N15524 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3D         N15512 N15518 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         N15314 N15512 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
C_C1         N15518 N15314  1n  TC=0,0 
R_R1         N15314 N15524  1k TC=0,0 
.IC         V(N15314 )=0
