* source ELECTRIC_10
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND VCC IO_STM IO_LEVEL=0 
+ 0 0
+ +2m 1
+REPEAT FOREVER
+ +6m 0
+  +6m 1
+ ENDREPEAT
C_C1         N16197 0  0.5uF  TC=0,0 
R_R1         N16185 0  1k TC=0,0 
L_L1         N16191 0  0.5H  
R_R3         VCC N16191  1k TC=0,0 
R_R4         VCC N16197  1k TC=0,0 
R_R2         VCC N16185  1k TC=0,0 
