* source PART_4_TRANSIENT
V_V1         IN 0 0Vdc
R_R1         N16804 IN  10 TC=0,0 
R_R2         0 OUT  1k TC=0,0 
D_D1         0 N16804 D1N750 
Q_Q1         IN N16804 OUT Q2N3904
