* source PART_3_BIAS_POINT
.SUBCKT SCHEMATIC1   
V_V1         IN 0 10Vdc
R_R1         IN OUT  1k TC=0,0 
R_R2         0 OUT  1k TC=0,0 
C_C1         0 OUT  1n  TC=0,0 
.ENDS
