* source PART_7_PARAMETRIC
D_D1         N14416 N14423 D1N914 
R_R1         0 N14423  1k TC=0,0 
C_C1         0 N14423  {Cvar}  TC=0,0 
V_V2         N14416 0  
+SIN 0 30v 1khz 0 0 0
.PARAM  cvar=1u
